2187-10-01 11:34:00 Physician Attending Progress Note
Chief Complaint: Hypotension, GI Bleed, anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient had temp 101.3 in past two days. Transferred from [**Hospital1 3462**] when found to have evidence of anemia and probable GI bleed.
   In ED, hypotensive, given 3 liters of fluid with improvement. Started
   on antibiotics.
   Patient give 2 units of PRBC's overnight. Post transfusion hct was 26;
   dropped to 22 with equilibration. Hemodynamically stable. Received
   ativan for anxiety.
   Patient had ERCP this AM. Area of tumor was cauterized. Felt to be at
   risk for rebleeding.
   24 Hour Events:
   PH:
   metastatic renal cell ca; mets to liver, pancreas, duodenum. Patient
   with hx of stent in pancreatic duct.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2187-10-1**] 02:00 AM
   Metronidazole - [**2187-10-1**] 02:00 AM
   Vancomycin - [**2187-10-1**] 07:54 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2187-10-1**] 08:55 AM
   Other medications:
   Magnesium, potassium.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, Fever
   Nutritional Support: NPO
   Gastrointestinal: Melena
   Heme / Lymph: Anemia
   Psychiatric / Sleep: Anxous
   Flowsheet Data as of  [**2187-10-1**] 11:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 93 (84 - 95) bpm
   BP: 153/73(110) {102/63(72) - 153/83(110)} mmHg
   RR: 32 (27 - 37) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
           Total In:
           6,578 mL
   PO:
           30 mL
   TF:
   IVF:
   2,393 mL
   Blood products:
   655 mL
   Total out:
                                                                      0 mL
                                                                  1,645 mL
   Urine:
   1,645 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  4,933 mL
   Respiratory support
   O2 Delivery Device: Medium conc mask
   SpO2: 97%
   ABG: ///17/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube, JVP normal.
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Crackles : Coarse, No(t) Bronchial: , No(t) Wheezes : ,
   No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, time, Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   6.6 g/dL
   90 K/uL
   109 mg/dL
   1.2 mg/dL
   17 mEq/L
   3.2 mEq/L
   25 mg/dL
   110 mEq/L
   143 mEq/L
   22.1 %
   14.6 K/uL
        [image002.jpg]
                            [**2187-10-1**]  05:19 AM
                            [**2187-10-1**]  08:44 AM
   WBC
   23.2
   14.6
   Hct
   26.8
   22.1
   Plt
   113
   90
   Cr
   1.2
   Glucose
   109
   Other labs: PT / PTT / INR:15.5/34.1/1.4, ALT / AST:69/64, Alk Phos / T
   Bili:446/3.9, Differential-Neuts:82.0 %, Band:10.0 %, Lymph:4.0 %,
   Mono:1.0 %, Eos:1.0 %, Lactic Acid:3.3 mmol/L, Albumin:3.0 g/dL,
   LDH:175 IU/L, Ca++:7.8 mg/dL, Mg++:1.4 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
   1) GI Bleed
   2) Anemia
   3) Metabolic Acidosis
   4) Fever
   Patient with GI bleeding and pronounced anemia. ERCP shows evidence of
   bleeding, likely from tumor. Hct has drifted down since transfusion.
   Needs additional transfusion now. If bleeding persists, will need
   angiography.
   Metabolic acidosis with anion gap. Lactate levels up mildly. No renal
   failure, no hx of DM, no hx to suggest ingestion. With fever, may have
   lactate related to septic physiology and/or volume depletion. Patient
   appears persistently volume depleted. Will switch from normal saline to
   lactated ringers; use boluses for urine output less than 50 cc/hr.
   Patient on antibiotics for possible cholangitis.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2187-10-1**] 12:05 AM
   20 Gauge - [**2187-10-1**] 12:06 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held  Comments: Discussed with patient's wife and daughter.
   [**Name (NI) 36**] status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2187-10-02 06:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -ERCP showed duodenal met that was likely source of bleeding and was
   cauderized but was not actively bleeding
   -IR states they could try angio for embolization of mass if it bleeds
   again but this would be the 3rd time they did this and would like to
   hold for now as pt is stable (not a surgical candidate)
   -HCT stable s/p 4 u PRBC's
   -Lactate down from 3.3 to 1.8
   - GI wants pt to remain on Zosyn/vanco for now.
   - Cultures all currently pending
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2187-10-1**] 02:00 AM
   Metronidazole - [**2187-10-1**] 02:00 AM
   Vancomycin - [**2187-10-1**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2187-10-1**] 08:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2187-10-1**] 08:00 PM
   Furosemide (Lasix) - [**2187-10-2**] 12:45 AM
   Metoprolol - [**2187-10-2**] 03:39 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-10-2**] 06:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.3
C (97.4
   HR: 129 (90 - 137) bpm
   BP: 140/76(92) {109/64(85) - 175/87(135)} mmHg
   RR: 34 (20 - 37) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
             Total In:
                                                                  9,418 mL
                                                                    119 mL
   PO:
                                                                     30 mL
             TF:
   IVF:
                                                                  4,758 mL
                                                                    119 mL
   Blood products:
                                                                  1,131 mL
   Total out:
                                                                  2,205 mL
                                                                    585 mL
   Urine:
                                                                  2,055 mL
                                                                    585 mL
   NG:
   Stool:
                                                                    150 mL
   Drains:
   Balance:
                                                                  7,213 mL
                                                                   -466 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///18/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube, JVP normal.
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Crackles : Coarse, No(t) Bronchial: , No(t) Wheezes : ,
   No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, time, Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   79 K/uL
   11.6 g/dL
   96 mg/dL
   1.2 mg/dL
   18 mEq/L
   3.8 mEq/L
   24 mg/dL
   112 mEq/L
   145 mEq/L
   34.7 %
   12.6 K/uL
        [image002.jpg]
                            [**2187-10-1**]  05:19 AM
                            [**2187-10-1**]  08:44 AM
                            [**2187-10-1**]  02:01 PM
                            [**2187-10-1**]  08:59 PM
                            [**2187-10-2**]  12:05 AM
   WBC
   23.2
   14.6
   12.6
   Hct
   26.8
   22.1
   25.5
   27.8
   34.7
   Plt
   113
   90
   79
   Cr
   1.2
   1.1
   1.2
   Glucose
   109
   89
   96
   Other labs: PT / PTT / INR:14.7/35.1/1.3, ALT / AST:58/46, Alk Phos / T
   Bili:453/3.9, Differential-Neuts:82.0 %, Band:10.0 %, Lymph:4.0 %,
   Mono:1.0 %, Eos:1.0 %, Lactic Acid:1.8 mmol/L, Albumin:3.0 g/dL,
   LDH:247 IU/L, Ca++:8.3 mg/dL, Mg++:2.2 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   67 y.o male with metastatic RCC who presents with HCT drop, melena,
   recent fever, hypotension.
   .
   #melena/HCT drop-Pt has h.o GIB in past that were secondary to bleeding
   metastasis. Pt recently admitted and s/p MICU course [**7-30**] where
   angiography was performed to stop bleeding. Pt s/p pancreatic ampullary
   stent in the past? Currently, pt reports darkened stools after the
   onset of Fe tablets. However, HCT upon discharge 35.6, currently 22.8.
   Source likely UGI in nature given melena and likely from tumor given
   past history. Other possibilities include PUD, AVN, colitis,
   hemorrhoids.
   -GI on board, appreciate recs
   -NPO
   -2 PIV's
   -active T+S
   -2 units PRBCs
   -q6hr hcts.
   -IV PPI.
   -guaiac stools.
   .
   #infection-Pt with fever, normal white count, recent RUQ/rib pain. Now
   with melena, slightly elevated LFT's, elevated bili. RUQ u/s finding
   gallbladder wall thickening and edema, "possible  cholecystitis". Pt
   without other localizing signs of meningitis, PNA, UTI at this time.
   Labs and U/S could be suggestive of cholangitis (blocked off stent) vs.
   cholecystitis.
   -infectious w/u
   -abx, vanco, cipro, flagyl to cover GI flora
   -trend fever curve/wbc count
   -GI recs-plan for ERCP in am.
   -repeat LFTs,
   .
   #lactic acidosis-likely from poor perfusion secondary to recent
   hypotension. Could also be secondary to metastatic disease. Also,
   cannot rule out sepsis as a possibility given recent fevers.
   -repeat lactate
   -IVF 2L
   -infectious w/u
   -abx, broad spectrum.
   .
   #ARF-baseline 0.9-1.0, currently 1.6 likely prerenal in the setting of
   hypotension, hypovolemia. No evidence of post-renal physiology at this
   time.
   -ulytes
   -renally dose meds
   -avoid nephrotoxins
   -consider renal u/s to r/o hydronephrosis if no resolution.
   -ucx.
   .
   #HTN-currently normotensive, hold home anti-HTN medications.
   .
   #CXR finding-pt with recent fevers, no respiratory symptoms and
   possible LLL finding on CXR infection vs. malignancy.
   -repeat CXR
   -follow clinically to consider adjustment of abx.
   .
   #metastatic RCC-pain control. Pt not currently undergoing chemotherapy.
   -will notify primary oncologist.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2187-10-1**] 12:06 AM
   18 Gauge - [**2187-10-1**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2187-10-02 12:23:00 Physician Attending Progress Note
Chief Complaint: GI Bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient transfused yesterday. Had elevated BP treated with metoprolol
   and lasix.
   Afebrile, but WBC elevated today.
   24 Hour Events:
 ERCP - At [**2187-10-1**] 10:27 AM
 FEVER - 102.4
F - [**2187-10-2**] 12:30 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2187-10-1**] 02:00 AM
   Metronidazole - [**2187-10-1**] 02:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2187-10-1**] 08:00 PM
   Vancomycin - [**2187-10-2**] 08:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2187-10-1**] 08:00 PM
   Furosemide (Lasix) - [**2187-10-2**] 12:45 AM
   Metoprolol - [**2187-10-2**] 03:39 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-10-2**] 12:23 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.4
   Tcurrent: 36.4
C (97.6
   HR: 98 (90 - 137) bpm
   BP: 103/74(80) {103/62(73) - 175/87(135)} mmHg
   RR: 25 (19 - 37) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  9,418 mL
                                                                    379 mL
   PO:
                                                                     30 mL
             TF:
   IVF:
                                                                  4,758 mL
                                                                    379 mL
   Blood products:
                                                                  1,131 mL
   Total out:
                                                                  2,205 mL
                                                                  1,025 mL
   Urine:
                                                                  2,055 mL
                                                                  1,025 mL
   NG:
   Stool:
                                                                    150 mL
   Drains:
   Balance:
                                                                  7,213 mL
                                                                   -646 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///19/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : Few scattered rales, No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Person, place, time, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.7 g/dL
   49 K/uL
   145 mg/dL
   1.2 mg/dL
   19 mEq/L
   3.4 mEq/L
   23 mg/dL
   109 mEq/L
   139 mEq/L
   28.5 %
   17.4 K/uL
        [image002.jpg]
                            [**2187-10-1**]  05:19 AM
                            [**2187-10-1**]  08:44 AM
                            [**2187-10-1**]  02:01 PM
                            [**2187-10-1**]  08:59 PM
                            [**2187-10-2**]  12:05 AM
                            [**2187-10-2**]  05:32 AM
                            [**2187-10-2**]  08:26 AM
   WBC
   23.2
   14.6
   12.6
   17.4
   Hct
   26.8
   22.1
   25.5
   27.8
   34.7
   28.2
   28.5
   Plt
   113
   90
   79
   49
   Cr
   1.2
   1.1
   1.2
   1.2
   Glucose
   109
   89
   96
   145
   Other labs: PT / PTT / INR:14.7/32.4/1.3, ALT / AST:41/31, Alk Phos / T
   Bili:391/3.2, Differential-Neuts:82.0 %, Band:10.0 %, Lymph:4.0 %,
   Mono:1.0 %, Eos:1.0 %, Lactic Acid:1.8 mmol/L, Albumin:3.0 g/dL,
   LDH:247 IU/L, Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
   ANEMIA
   THROMBOCYTOPENIA
   ACIDOSIS
   Hct stable this AM. Hemodynamics stable.
   Platelets are drifting down; check HIT antibody.
   WBC elevated post ERCP. Monitor cultures. Consider broadening
   antibiotics.
   Mild metabolic acidosis with borderline gap. [**Month (only) 51**] be losing bicarb in
   diarrhea.
   ICU Care
   Nutrition: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2187-10-1**] 12:06 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments: Not appolicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2187-10-03 07:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Hct was stable in afternoon at 29.3, but dropped to 26.9 in evening
   with tachycardia and bloody diarrhea.
   - transfused 1 U overnight, patient remained hemodynamically stable but
   Hct did not bump and was 26.6 this am.
   - Paged angio this am.
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2187-10-1**] 02:00 AM
   Metronidazole - [**2187-10-1**] 02:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2187-10-2**] 07:59 PM
   Vancomycin - [**2187-10-2**] 08:30 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2187-10-2**] 08:00 PM
   Lorazepam (Ativan) - [**2187-10-3**] 03:00 AM
   Other medications:
   Changes to medical and family history:none
   Review of systems is unchanged from admission except as noted below
   Review of systems: Pt denies any fever, chills, abd pain, nausea,
   vomitting, headache, shortness of breath. States he is having diarrhea
   overnight.
   Flowsheet Data as of  [**2187-10-3**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.4
C (97.6
   HR: 89 (84 - 131) bpm
   BP: 121/81(91) {99/64(73) - 152/96(109)} mmHg
   RR: 20 (18 - 32) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
           Total In:
                                                                  1,801 mL
                                                                    913 mL
   PO:
                                                                    360 mL
           TF:
   IVF:
                                                                  1,410 mL
                                                                    569 mL
   Blood products:
                                                                     31 mL
                                                                    344 mL
   Total out:
                                                                  1,520 mL
                                                                    160 mL
   Urine:
                                                                  1,520 mL
                                                                    160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    281 mL
                                                                    753 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Wheezes : , No(t) Rhonchorous: )
   Abdominal: Bowel sounds present, Distended
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, No(t) Sedated, Tone:
   Normal
   Labs / Radiology
   40 K/uL
   9.1 g/dL
   121 mg/dL
   1.0 mg/dL
   21 mEq/L
   3.8 mEq/L
   21 mg/dL
   115 mEq/L
   142 mEq/L
   26.6 %
   11.0 K/uL
        [image002.jpg]
                            [**2187-10-1**]  05:19 AM
                            [**2187-10-1**]  08:44 AM
                            [**2187-10-1**]  02:01 PM
                            [**2187-10-1**]  08:59 PM
                            [**2187-10-2**]  12:05 AM
                            [**2187-10-2**]  05:32 AM
                            [**2187-10-2**]  08:26 AM
                            [**2187-10-2**]  04:48 PM
                            [**2187-10-2**]  10:08 PM
                            [**2187-10-3**]  04:55 AM
   WBC
   23.2
   14.6
   12.6
   17.4
   14.6
   12.9
   11.0
   Hct
   26.8
   22.1
   25.5
   27.8
   34.7
   28.2
   28.5
   29.3
   26.9
   26.6
   Plt
   113
   90
   79
   49
   50
   47
   40
   Cr
   1.2
   1.1
   1.2
   1.2
   1.0
   Glucose
   109
   89
   96
   145
   121
   Other labs: PT / PTT / INR:14.9/29.0/1.3, ALT / AST:29/18, Alk Phos / T
   Bili:420/1.9, Amylase / Lipase:/11, Differential-Neuts:90.0 %, Band:7.0
   %, Lymph:0.0 %, Mono:3.0 %, Eos:0.0 %, Lactic Acid:1.8 mmol/L,
   Albumin:2.3 g/dL, LDH:247 IU/L, Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:2.2
   mg/dL
   Assessment and Plan
 ANXIETY
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
   67 y.o male with metastatic RCC who presents GIB, potential
   cholangitis.
   .
   #GIB: [**12-23**] to Pancreatic lesion most likley as revealed by ERCP. Pt with
   bloody diarrhea and Hct that did not bump to 1 u PRBCs overnight. Pt to
   IR/angio this am who did not see active extravasation and does not
   think that further angio intervention would be helpful given extent of
   tumor and risk for ischemia to bowel. Pt also no surgery or ERCP
   condidate.  Will need to have family meeting today to discuss goals of
   care as pt could be transfused but there do not appear to be other
   interventions possible to stop future bleeding.
   -Transfuse PRN
   - 2 PIV's
   - q6hr hcts.
   - IV PPI [**Hospital1 7**].
   - Monitoring and Guaiac all stools
   - family mtg today- oncology contact[**Name (NI) **] for possible participation
   .
   # Infection- WBC trending down, BCx, Ucx NGTD. Remains afebrile. LFTs
   improving. Potentially transient cholangitis. Currently day 3 of
   Vanc/Zosyn
   - Cont vanco/zosyn with potential Gram negative expansion if pt becomes
   septic, also consider VRE coverage
   - Trend fever curve (also look for Hypothermia)/ wbc count /LFTs
   .
   # Thrombocytopenia: Plts now 90 s/p 2 units platelets. DDx consumptive,
   dilutional from blood vs SQH.
   - Consider sending HIT
   - holding SQH
   - Transfuse prn for bleeding and plt<50
   .
   #  Lactic acidosis- resolved
   .
   # Metastatic RCC - Pain controled. No further tx at this time per heme.
   Will discuss goals of care at family mtg today.
   ICU Care
   Nutrition:  clear liquids to advance as tol
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2187-10-1**] 12:06 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2187-10-03 12:14:00 Physician Attending Progress Note
Chief Complaint: GI bleed, anemia, cholangitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Increased bleeding overnight. Developed tachycardia, but no
   hypotension.  Sent to interventional radiology. No active extravasation
   seen.
   Afebrile. Abdominal tenderness diminished.
   24 Hour Events:
                                                 History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2187-10-1**] 02:00 AM
   Metronidazole - [**2187-10-1**] 02:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2187-10-2**] 07:59 PM
   Vancomycin - [**2187-10-3**] 07:22 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2187-10-3**] 07:15 AM
   Pantoprazole (Protonix) - [**2187-10-3**] 07:23 AM
   Other medications:
   calcium carbonate, Vanco
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-10-3**] 12:14 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.7
C (98
   HR: 94 (84 - 131) bpm
   BP: 138/86(100) {99/65(73) - 152/96(109)} mmHg
   RR: 25 (18 - 32) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
           Total In:
                                                                  1,801 mL
                                                                  1,906 mL
   PO:
                                                                    360 mL
           TF:
   IVF:
                                                                  1,410 mL
                                                                    829 mL
   Blood products:
                                                                     31 mL
                                                                  1,077 mL
   Total out:
                                                                  1,520 mL
                                                                    230 mL
   Urine:
                                                                  1,520 mL
                                                                    230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    281 mL
                                                                  1,676 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anteriorally and laterally, No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Person, place, time, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   93 K/uL
   121 mg/dL
   1.0 mg/dL
   21 mEq/L
   3.8 mEq/L
   21 mg/dL
   115 mEq/L
   142 mEq/L
   26.6 %
   11.0 K/uL
        [image002.jpg]
                            [**2187-10-1**]  08:44 AM
                            [**2187-10-1**]  02:01 PM
                            [**2187-10-1**]  08:59 PM
                            [**2187-10-2**]  12:05 AM
                            [**2187-10-2**]  05:32 AM
                            [**2187-10-2**]  08:26 AM
                            [**2187-10-2**]  04:48 PM
                            [**2187-10-2**]  10:08 PM
                            [**2187-10-3**]  04:55 AM
                            [**2187-10-3**]  09:29 AM
   WBC
   14.6
   12.6
   17.4
   14.6
   12.9
   11.0
   Hct
   22.1
   25.5
   27.8
   34.7
   28.2
   28.5
   29.3
   26.9
   26.6
   Plt
   90
   79
   49
   50
   47
   40
   93
   Cr
   1.1
   1.2
   1.2
   1.0
   Glucose
   89
   96
   145
   121
   Other labs: PT / PTT / INR:14.9/29.0/1.3, ALT / AST:29/18, Alk Phos / T
   Bili:420/1.9, Amylase / Lipase:/11, Differential-Neuts:90.0 %, Band:7.0
   %, Lymph:0.0 %, Mono:3.0 %, Eos:0.0 %, Lactic Acid:1.8 mmol/L,
   Albumin:2.3 g/dL, LDH:247 IU/L, Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:2.2
   mg/dL
   Assessment and Plan
 ANXIETY
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
   ANEMIA
   CHOLANGITIS
   Recurrent bleeding. No further treatment options - no therapy available
   for his tumor, no further endoscopic procedures available, and surgery
   not an option for treatment of his bleeding. Will engage patient and
   family in discussion of goals of therapy.
   Complete course of antibiotics for cholangitis.
   Monitor Hct. Hemodynamically stable.
   ICU Care
   Nutrition: Clear liqs
   Glycemic Control:
   Lines:
   20 Gauge - [**2187-10-1**] 12:06 AM
   18 Gauge - [**2187-10-3**] 08:49 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2187-10-04 07:48:00 Physician Resident Progress Note
Chief Complaint: RCC with duodenal metastasis and UGIB
   24 Hour Events:
   - Pt passing clots during day yesterday and having melanous stools
   overnight
   - Received 1 additional pRBC yesterday, 2L of NS for tachycardia. Hct
   stable.
   - Team met with family in addition to Heme-Onc meeting with family
   - Pt made DNR/DNI
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2187-10-3**] 08:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2187-10-4**] 04:12 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2187-10-3**] 02:54 PM
   Other medications:
   Changes to medical and family history:none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: Dry mouth
   Cardiovascular: No(t) Chest pain, No(t) Palpitations
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   Diarrhea, No(t) Constipation
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Heme / Lymph: Anemia
   Neurologic: No(t) Headache
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious
   Flowsheet Data as of  [**2187-10-4**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.4
C (97.6
   HR: 111 (94 - 133) bpm
   BP: 139/92(99) {124/75(87) - 157/117(121)} mmHg
   RR: 43 (20 - 43) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
             Total In:
                                                                  4,900 mL
                                                                    177 mL
   PO:
             TF:
   IVF:
                                                                  3,277 mL
                                                                    177 mL
   Blood products:
                                                                  1,623 mL
   Total out:
                                                                  1,270 mL
                                                                    300 mL
   Urine:
                                                                    870 mL
                                                                    300 mL
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                  3,630 mL
                                                                   -124 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///19/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   42 K/uL
   9.3 g/dL
   119 mg/dL
   0.9 mg/dL
   19 mEq/L
   3.6 mEq/L
   14 mg/dL
   112 mEq/L
   142 mEq/L
   25.9 %
   10.0 K/uL
        [image002.jpg]
                            [**2187-10-2**]  05:32 AM
                            [**2187-10-2**]  08:26 AM
                            [**2187-10-2**]  04:48 PM
                            [**2187-10-2**]  10:08 PM
                            [**2187-10-3**]  04:55 AM
                            [**2187-10-3**]  09:29 AM
                            [**2187-10-3**]  12:31 PM
                            [**2187-10-3**]  04:16 PM
                            [**2187-10-4**]  12:00 AM
                            [**2187-10-4**]  04:36 AM
   WBC
   17.4
   14.6
   12.9
   11.0
   10.0
   Hct
   28.2
   28.5
   29.3
   26.9
   26.6
   25.1
   28.6
   27.8
   25.9
   Plt
   49
   50
   47
   40
   93
   42
   Cr
   1.2
   1.0
   0.9
   Glucose
   145
   121
   119
   Other labs: PT / PTT / INR:14.9/27.7/1.3, ALT / AST:29/18, Alk Phos / T
   Bili:420/1.9, Amylase / Lipase:/11, Differential-Neuts:90.0 %, Band:7.0
   %, Lymph:0.0 %, Mono:3.0 %, Eos:0.0 %, Lactic Acid:1.8 mmol/L,
   Albumin:2.3 g/dL, LDH:247 IU/L, Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:2.5
   mg/dL
   Assessment and Plan
 ANXIETY
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)'
   67 y.o male with metastatic RCC who presents GIB, potential
   cholangitis.
   .
   #GIB: [**12-23**] to Pancreatic lesion most likley as revealed by ERCP. Pt with
   bloody diarrhea and Hct that did not bump to 1 u PRBCs overnight. Pt to
   IR/angio this am who did not see active extravasation and does not
   think that further angio intervention would be helpful given extent of
   tumor and risk for ischemia to bowel. Pt also no surgery or ERCP
   condidate.  Will need to have family meeting today to discuss goals of
   care as pt could be transfused but there do not appear to be other
   interventions possible to stop future bleeding.
   -Transfuse PRN
   - 2 PIV's
   - q6hr hcts.
   - IV PPI [**Hospital1 7**].
   - Monitoring and Guaiac all stools
   - family mtg today- oncology contact[**Name (NI) **] for possible participation
   .
   # Infection- WBC trending down, BCx, Ucx NGTD. Remains afebrile. LFTs
   improving. Potentially transient cholangitis. Currently day 3 of
   Vanc/Zosyn
   - Cont vanco/zosyn with potential Gram negative expansion if pt becomes
   septic, also consider VRE coverage
   - Trend fever curve (also look for Hypothermia)/ wbc count /LFTs
   .
   # Thrombocytopenia: Plts now 90 s/p 2 units platelets. DDx consumptive,
   dilutional from blood vs SQH.
   - Consider sending HIT
   - holding SQH
   - Transfuse prn for bleeding and plt<50
   .
   #  Lactic acidosis- resolved
   .
   # Metastatic RCC - Pain controled. No further tx at this time per heme.
   Will discuss goals of care at family mtg today.
   ICU Care
   Nutrition: clear liquids, adv as tol to reg
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2187-10-1**] 12:06 AM
   18 Gauge - [**2187-10-3**] 08:49 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held  Comments:
   Code status: DNR / DNI
   Disposition:ICU

2187-10-04 11:49:00 Physician Attending Progress Note
Chief Complaint: GI bleed, anemia, metastatic renal cell ca,
   thrombocytoopenia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient continued to require blood products and fluids through the
   night.
   Febrile to 100.4
   Oxygen saturations excellent without supplemental O2.
   24 Hour Events:
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2187-10-4**] 04:12 AM
   Vancomycin - [**2187-10-4**] 08:11 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2187-10-4**] 08:00 AM
   Other medications:
   Protonix
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-10-4**] 11:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.8
C (98.2
   HR: 111 (95 - 133) bpm
   BP: 147/85(100) {124/75(87) - 157/117(121)} mmHg
   RR: 31 (20 - 43) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
           Total In:
                                                                  4,900 mL
                                                                    781 mL
   PO:
           TF:
   IVF:
                                                                  3,277 mL
                                                                    576 mL
   Blood products:
                                                                  1,623 mL
                                                                    205 mL
   Total out:
                                                                  1,270 mL
                                                                    450 mL
   Urine:
                                                                    870 mL
                                                                    450 mL
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                  3,630 mL
                                                                    331 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///19/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic), I/VI systolic murmur at base
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , Dullness : Right
   base), (Breath Sounds: No(t) Clear : , Crackles : Rales at bases [**11-23**] of
   the way up the chest, No(t) Bronchial: , No(t) Wheezes : , No(t)
   Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Person, place, time, Movement: Not assessed,
   Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   42 K/uL
   119 mg/dL
   0.9 mg/dL
   19 mEq/L
   3.6 mEq/L
   14 mg/dL
   112 mEq/L
   142 mEq/L
   25.9 %
   10.0 K/uL
        [image002.jpg]
                            [**2187-10-2**]  05:32 AM
                            [**2187-10-2**]  08:26 AM
                            [**2187-10-2**]  04:48 PM
                            [**2187-10-2**]  10:08 PM
                            [**2187-10-3**]  04:55 AM
                            [**2187-10-3**]  09:29 AM
                            [**2187-10-3**]  12:31 PM
                            [**2187-10-3**]  04:16 PM
                            [**2187-10-4**]  12:00 AM
                            [**2187-10-4**]  04:36 AM
   WBC
   17.4
   14.6
   12.9
   11.0
   10.0
   Hct
   28.2
   28.5
   29.3
   26.9
   26.6
   25.1
   28.6
   27.8
   25.9
   Plt
   49
   50
   47
   40
   93
   42
   Cr
   1.2
   1.0
   0.9
   Glucose
   145
   121
   119
   Other labs: PT / PTT / INR:14.9/27.7/1.3, ALT / AST:29/18, Alk Phos / T
   Bili:420/1.9, Amylase / Lipase:/11, Differential-Neuts:90.0 %, Band:7.0
   %, Lymph:0.0 %, Mono:3.0 %, Eos:0.0 %, Lactic Acid:1.8 mmol/L,
   Albumin:2.3 g/dL, LDH:247 IU/L, Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:2.5
   mg/dL
   Assessment and Plan
 ANXIETY
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
   ANEMIA
   ACIDOSIS
   Hct drifting down slowly. Patient has been hemodynamically stable. No
   further interventions possible for the bleeding.
   Mild tachycardia; has not been responsive to fluids.
   Bandemia slowly resolving. Low grade fever. Complete course of
   antibiotics.
   Mild metabolic acidosis with small anion gap. If fluids needed, would
   give lactated Ringers to avoid hyperchloremic acidosis.
   ICU Care
   Nutrition: Oral
   Glycemic Control:
   Lines:
   20 Gauge - [**2187-10-1**] 12:06 AM
   18 Gauge - [**2187-10-3**] 08:49 AM
   22 Gauge - [**2187-10-4**] 10:09 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes

2187-10-05 07:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Called out to OMED but waiting for a bed and Hospice near his home has
   a bed so he may be discharged directly to hospice
   -Palliative care came by and will meet again with the family in the am
   -Transfused 1 unit PRBCs in the am and 2 units in the pm, 1 unit
   platelets given in am
   -Wrote total of 1L LR for tachycardia
   -Increased ativan to .[**3-23**] Q3
   -PT consulted
   -Loperamide ordered for diarrhea
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2187-10-4**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2187-10-5**] 04:08 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2187-10-4**] 08:00 PM
   Lorazepam (Ativan) - [**2187-10-5**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-10-5**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.3
C (99.2
   HR: 111 (93 - 129) bpm
   BP: 129/82(94) {129/75(88) - 175/108(118)} mmHg
   RR: 28 (22 - 35) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
           Total In:
                                                                  3,546 mL
                                                                    445 mL
   PO:
                                                                     50 mL
                                                                     50 mL
   TF:
   IVF:
                                                                  2,440 mL
                                                                    218 mL
   Blood products:
                                                                  1,056 mL
                                                                    177 mL
   Total out:
                                                                    850 mL
                                                                    235 mL
   Urine:
                                                                    850 mL
                                                                    235 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,696 mL
                                                                    210 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///18/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Anxious
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing, pulses present
   Labs / Radiology
   42 K/uL
   10.2 g/dL
   102 mg/dL
   0.9 mg/dL
   18 mEq/L
   3.7 mEq/L
   10 mg/dL
   113 mEq/L
   140 mEq/L
   28.0 %
   9.9 K/uL
        [image002.jpg]
                            [**2187-10-2**]  04:48 PM
                            [**2187-10-2**]  10:08 PM
                            [**2187-10-3**]  04:55 AM
                            [**2187-10-3**]  09:29 AM
                            [**2187-10-3**]  12:31 PM
                            [**2187-10-3**]  04:16 PM
                            [**2187-10-4**]  12:00 AM
                            [**2187-10-4**]  04:36 AM
                            [**2187-10-4**]  06:02 PM
                            [**2187-10-5**]  02:39 AM
   WBC
   14.6
   12.9
   11.0
   10.0
   9.7
   9.9
   Hct
   29.3
   26.9
   26.6
   25.1
   28.6
   27.8
   25.9
   23.2
   28.0
   Plt
   50
   47
   40
   93
   42
   44
   42
   Cr
   1.0
   0.9
   0.9
   Glucose
   121
   119
   102
   Other labs: PT / PTT / INR:14.9/27.5/1.3, ALT / AST:29/18, Alk Phos / T
   Bili:420/1.9, Amylase / Lipase:/11, Differential-Neuts:81.4 %, Band:0.0
   %, Lymph:13.6 %, Mono:3.5 %, Eos:1.2 %, Lactic Acid:1.8 mmol/L,
   Albumin:2.3 g/dL, LDH:247 IU/L, Ca++:7.8 mg/dL, Mg++:1.8 mg/dL, PO4:3.8
   mg/dL
   Assessment and Plan
 ANXIETY
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
   67 y.o male with metastatic RCC who presents GIB, potential
   cholangitis.
   .
   #GIB: [**12-23**] to Pancreatic lesion- ERCP, IR and surgery say pt is not
   eligible for interventions to stop the bleeding.  Palliative care came
   by today and briefly met with the family. For now, pt is being
   transfused PRN and family is thinking about possible [**Hospital **] hospice.
   -Transfuse PRN
   - 2 PIV's
   - rechk CBC after transfusions
   - IV PPI [**Hospital1 7**].
   - Monitoring and Guaiac all stools
   - palliative care following
   - PT consult today
   -Continuing to bolus with LR prn for tachycardia
   .
   # Infection- WBC trending down, BCx, Ucx NGTD. Remains afebrile. LFTs
   improving. Potentially transient cholangitis. Currently day 5 of
   Vanc/Zosyn will continue for 7 day course
   - Cont vanco/zosyn for 7 day course
   - Trend fever curve (also look for Hypothermia)/ wbc count /LFTs
   .
   # Thrombocytopenia: Plts now 42 this am prior to transfusion. DDx
   consumptive, dilutional from blood vs SQH.
   - holding SQH
   - Transfuse prn for bleeding and plt<50
   .
   # Metastatic RCC - Pain controlled. Heme met  with family yesterday and
   offered chemo for one final round but with the caution that this could
   make the duodenal met bleed faster. The family does not want to pursue
   this at this time.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2187-10-1**] 12:06 AM
   18 Gauge - [**2187-10-3**] 08:49 AM
   22 Gauge - [**2187-10-4**] 10:09 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:ICU

2187-10-05 11:37:00 Physician Attending Progress Note
Chief Complaint: GI bleed, anemia, metastatic cancer
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient transfused 2 units last night.
   Received 1 liter of fluid for tachycardia without much change in HR.
   Patient requesting ativan more frequently.
   Still with low grade fever.
   24 Hour Events:
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2187-10-4**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2187-10-5**] 08:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2187-10-4**] 08:00 PM
   Lorazepam (Ativan) - [**2187-10-5**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-10-5**] 11:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.6
C (99.6
   HR: 106 (93 - 129) bpm
   BP: 153/91(107) {129/75(88) - 175/108(118)} mmHg
   RR: 23 (20 - 35) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 70 Inch
           Total In:
                                                                  3,546 mL
                                                                    642 mL
   PO:
                                                                     50 mL
                                                                     50 mL
   TF:
   IVF:
                                                                  2,440 mL
                                                                    414 mL
   Blood products:
                                                                  1,056 mL
                                                                    177 mL
   Total out:
                                                                    850 mL
                                                                    365 mL
   Urine:
                                                                    850 mL
                                                                    365 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,696 mL
                                                                    277 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///18/
   Physical Examination
   Exam deferred because patient and family in middle of meeting with
   palliative care staff.
   Patient awake and alert.
   Labs / Radiology
   10.2 g/dL
   42 K/uL
   102 mg/dL
   0.9 mg/dL
   18 mEq/L
   3.7 mEq/L
   10 mg/dL
   113 mEq/L
   140 mEq/L
   28.0 %
   9.9 K/uL
        [image002.jpg]
                            [**2187-10-2**]  04:48 PM
                            [**2187-10-2**]  10:08 PM
                            [**2187-10-3**]  04:55 AM
                            [**2187-10-3**]  09:29 AM
                            [**2187-10-3**]  12:31 PM
                            [**2187-10-3**]  04:16 PM
                            [**2187-10-4**]  12:00 AM
                            [**2187-10-4**]  04:36 AM
                            [**2187-10-4**]  06:02 PM
                            [**2187-10-5**]  02:39 AM
   WBC
   14.6
   12.9
   11.0
   10.0
   9.7
   9.9
   Hct
   29.3
   26.9
   26.6
   25.1
   28.6
   27.8
   25.9
   23.2
   28.0
   Plt
   50
   47
   40
   93
   42
   44
   42
   Cr
   1.0
   0.9
   0.9
   Glucose
   121
   119
   102
   Other labs: PT / PTT / INR:14.9/27.5/1.3, ALT / AST:29/18, Alk Phos / T
   Bili:420/1.9, Amylase / Lipase:/11, Differential-Neuts:81.4 %, Band:0.0
   %, Lymph:13.6 %, Mono:3.5 %, Eos:1.2 %, Lactic Acid:1.8 mmol/L,
   Albumin:2.3 g/dL, LDH:247 IU/L, Ca++:7.8 mg/dL, Mg++:1.8 mg/dL, PO4:3.8
   mg/dL
   Imaging: CXR: Low lung volumes. Mild blunting of Left CPA.
   Assessment and Plan
 GAIT, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 TRANSFERS, IMPAIRED
 ANXIETY
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN
   ORIGIN)//CHOLANGITIS
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
   Has ongoing need for blood transfusions. Has been hemodynamically
   stable. Not clear that tachycardia related to volume status given lack
   of response to volume challenges. Remains very anxiious with increasing
   need for ativan.
   Remains on antibiotics for presumed cholangitis.  Still low grade
   fever.
   Ongoing discussions with palliative care re: transfer to inpatient
   hospice.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2187-10-1**] 12:06 AM
   18 Gauge - [**2187-10-3**] 08:49 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 25 minutes